US07528136B2
4-[(2S,4S)-1-Benzyl-4-(3,5-bis-trifluoromethyl-benzylamino)-pyrrolidine-2-carbonyl]-piperazine-1-carboxylic acid ethyl ester
As described for Example 56d, 1-benzyl-4-(3,5-bis-trifluoromethyl-benzylamino)-pyrrolidine-2-carboxylic acid (65 mg, 0.146 mmol) was converted, using piperazine-1-carboxylic acid ethyl ester instead of 1-(3-trifluoromethyl-phenyl)-piperazine, to the title compound (6.8 mg, 7.5%) as light yellow oil. MS m/e=587.3 [M+H]+.

reactant | 1-benzyl-4-(3,5-bis-trifluoromethyl-benzylamino)-pyrrolidine-2-carboxylic acid | 0.146 mmol, 65 mg | C(C1=CC=CC=C1)N1C(CC(C1)NCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(=O)O | C21H20F6N2O2
reactant | piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCNCC1 | C7H14N2O2
product | 4-[(2S,4S)-1-Benzyl-4-(3,5-bis-trifluoromethyl-benzylamino)-pyrrolidine-2-carbonyl]-piperazine-1-carboxylic acid ethyl ester | 6.8 mg, 7.5% | C(C)OC(=O)N1CCN(CC1)C(=O)[C@H]1N(C[C@H](C1)NCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)CC1=CC=CC=C1 | C28H32F6N4O3
